US06916937B2
Step B: Phosphoric acid mono-{2-(R)-[3-(S)-(5-chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indol-1-yl]-4-(S),5-(S)-dihydroxy-6-(R)-hydroxymethyl-tetrahydro-pyran-3-(R)-yl}ester; 3-(S)-Ic:
To a round bottom flask containing Phosphoric acid dibenzyl ester 4-(S),5-(S)-bis-benzyloxy-6-(R)-benzyloxymethyl-2-(R)-[3-(S)-(5-chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indol-1-yl]-tetrahydro-pyran-3-(R)-yl ester (3-(S)-IX) (0.117 g, 0.11 mmol) was added ethyl acetate (1 mL). Platinum oxide (0.013 g, 0.06 mmol) was added to the reaction mixture which was then placed under a hydrogen atmosphere. The reaction was allowed to stir at room temperature overnight. The crude reaction mixture was purified via reverse phase column chromatography (C18, 1:1 water:acetonitrile). The title product was obtained as a white solid (0.045 g, 68%). 1H NMR (MeOH-D4, 400 MHz): δ 7.72 (d, 1H, J=1.8 Hz), 7.5 (s, 1H), 7.38 (dd, 1H, J=6.2 Hz, 2.6 Hz), 7.29 (dd, 1H, J=21.7 Hz, 7.7 Hz), 6.93 (dd, 1H, J=7.7 Hz, 1.1 Hz), 5.61 (d, 1H, J=9.4 Hz), 3.97 (d, 1H, J=11.9 Hz), 3.77 (m, 2H), 3.57 (s, 3H); 19F NMR (MeOH-D4, 376 MHz): δ−64.5, −163.3; 31P NMR (MeOH-D4, 161 MHz): δ 1.54; LRMS: 599 [M−H]−.

reactant | Phosphoric acid dibenzyl ester 4-(S),5-(S)-bis-benzyloxy-6-(R)-benzyloxymethyl-2-(R)-[3-(S)-(5-chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indol-1-yl]-tetrahydro-pyran-3-(R)-yl ester | 0.11 mmol, 0.117 g | C(C1=CC=CC=C1)O[C@@H]1[C@H]([C@@H](O[C@@H]([C@@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1)N1C([C@@](C2=CC=C(C=C12)C(F)(F)F)(F)C1=C(C=CC(=C1)Cl)OC)=O)OP(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)=O | C57H51ClF4NO10P
catalyst | Platinum oxide | 0.06 mmol, 0.013 g | [Pt]=O
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
product | Phosphoric acid mono-{2-(R)-[3-(S)-(5-chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indol-1-yl]-4-(S),5-(S)-dihydroxy-6-(R)-hydroxymethyl-tetrahydro-pyran-3-(R)-yl}ester | ClC=1C=CC(=C(C1)[C@@]1(C(N(C2=CC(=CC=C12)C(F)(F)F)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1OP(O)(O)=O)O)O)CO)=O)F)OC | C22H21ClF4NO10P
